US06727247B2
4-(Methanesulfonylamino-methyl)-piperidine-1-carboxylic Acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide
Using piperidin-4-ylmethyl-carbamic acid tert-butyl ester, [1-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylcarbamoyl)-piperidin-4-ylmethyl]-carbamic acid tert-butyl ester was prepared as white solid. Subsequent deprotection with trifluoroacetic acid and reaction with methanesulfonyl chloride/pyridine under standard conditions afforded the title compound as white crystals in 44% overall yield.

reactant | piperidin-4-ylmethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1CCNCC1)=O | C11H22N2O2
reactant | [1-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylcarbamoyl)-piperidin-4-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1CCN(CC1)C(NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC)=O)=O | C24H35N5O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanesulfonyl chloride pyridine | CS(=O)(=O)Cl.N1=CC=CC=C1
product | 4-(Methanesulfonylamino-methyl)-piperidine-1-carboxylic Acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)N2CCC(CC2)CNS(=O)(=O)C)N2CCOCC2 | C20H29N5O5S2
